US04929613
4-(4-Carboxy-2,5-difluorphenyl)-1-acetyl-1,2,3,6-tetrahydropyridine.
A suspension of 8.51 g (29.1 mmol) 4-(4-carboxy-2,5-difluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride in 90 ml acetic anhydride was stirred at reflux for 0.75 hour. The resulting solution was evaporated to dryness and the residue stirred with water, filtered, and crystallized from acetic acid-water to afford the title compound, mp 241°-242° C.

reactant | 4-(4-carboxy-2,5-difluorophenyl)-1,2,3,6-tetrahydropyridine hydrochloride | 29.1 mmol, 8.51 g | Cl.C(=O)(O)C1=CC(=C(C=C1F)C=1CCNCC1)F
reactant | acetic anhydride | 90 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 4-(4-Carboxy-2,5-difluorphenyl)-1-acetyl-1,2,3,6-tetrahydropyridine | C(=O)(O)C1=CC(=C(C=C1F)C=1CCN(CC1)C(C)=O)F | C14H13F2NO3
